US08168788B2
Step 1. 6-Methoxy-3H-quinazolin-4-one
To 1.025 mmoles of 2-amino-5-methoxy anthranilic acid add 6.14 mmoles of formamide and microwave reaction mixture for 20 mins at 160° C. After cooling the solid was diluted with 10 mL ethanol, the mixture was heated to reflux and allowed to cool slowly. The solid obtained was filtered and washed with cold ethanol and vacuum dried to give the title compound in 50% yield.

reactant | 2-amino-5-methoxy anthranilic acid | 1.025 mmoles | NC1(C(C(=O)O)C=C(C=C1)OC)N | C8H12N2O3
reactant | formamide | 6.14 mmoles | C(=O)N | CH3NO
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-Methoxy-3H-quinazolin-4-one | 50% yield | COC=1C=C2C(NC=NC2=CC1)=O | C9H8N2O2
